US07459562B2
B) N1-(3-Fluoro-4-(pyridin-4-yloxy)phenyl)-N3-(4-fluorophenyl)malonamide
N1-(3-Fluoro-4-hydroxyphenyl)-N3-(4-fluorophenyl)malonamide (31 mg, 0.10 mmol), copper(II) acetate (27 mg, 0.15 mmol), pyridin-4-ylboronic acid (25 mg, 0.20 mmol), and pyridine (16 μL, 0.20 mmol) were placed in a pressure tube in that order. The tube was charged with methylene chloride (0.5 mL) and sealed. The reaction was stirred at 120° C. for 5 h. The reaction mixture was filtered through silica gel using 5% methanol/ethyl acetate. After concentration, the crude product was purified by prep HPLC. The appropriate fraction was concentrated to remove methanol and the resulting aqueous solution was made basic with saturated NaHCO3 solution (5 mL). The aqueous solution was extracted with EtOAc (3×10 mL) and the combined organic extracts were dried over anhydrous Na2SO4 and concentrated in vacuo. The product was treated with 4N HCl in dioxane and concentrated. Lyophilization with water gave the title compound (8 mg, 21%) as a yellow solid. 1H NMR (CD3OD) δ 8.31 (d, 2H, J=6.1 Hz), 7.72 (dd, 1H, J=12.7, 2.4 Hz), 7.49-7.46 (m, 2H), 7.27-7.25 (m, 1H), 7.15 (t, 1H, J=8.8 Hz), 6.97 (t, 2H, J=8.7 Hz), 6.85 (dd, 2H, J=5.1, 1.2 Hz), 3.46 (s, 2H); MS(ESI+) m/z 384.21 (M+H)+.

reactant | N1-(3-Fluoro-4-hydroxyphenyl)-N3-(4-fluorophenyl)malonamide | 0.10 mmol, 31 mg | FC=1C=C(C=CC1O)NC(CC(=O)NC1=CC=C(C=C1)F)=O | C15H12F2N2O3
reactant | pyridin-4-ylboronic acid | 0.20 mmol, 25 mg | N1=CC=C(C=C1)B(O)O | C5H6BNO2
reactant | pyridine | 0.20 mmol, 16 μL | N1=CC=CC=C1 | C5H5N
catalyst | copper(II) acetate | 0.15 mmol, 27 mg | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
solvent | methylene chloride | 0.5 mL | C(Cl)Cl | CH2Cl2
product | N1-(3-Fluoro-4-(pyridin-4-yloxy)phenyl)-N3-(4-fluorophenyl)malonamide | 8 mg, 21% | FC=1C=C(C=CC1OC1=CC=NC=C1)NC(CC(=O)NC1=CC=C(C=C1)F)=O | C20H15F2N3O3
